US07572808B2
B. Preparation of 7-chloro-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a suspension of 8-bromo-7-chloro-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (506 mg, 1.2 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (984 mg, 4.8 mmol), and 2.0 M aqueous sodium carbonate (2.6 mL) in toluene (10 mL) was added (Ph3P)4Pd (208 mg, 0.18 mmol) in one portion, and the resulting yellow mixture was vigorously stirred under argon at 100° C. Analysis by HPLC/MS after 2.5 h indicated about 70% of starting 8-bromo-7-chloro-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one remained. Additional (Ph3P)4Pd (60 mg, 0.05 mmol) was added. After stirring for 3 h more, the same amount of catalyst was again added, and the reaction mixture was stirred at 100° C. under argon for 5 h more. After cooling to room temperature, the reaction mixture was diluted with water and extracted with EtOAc (40 mL×3). The combined EtOAc extracts were washed with water, then saturated aqueous NaCl, dried over Na2SO4, filtered and concentrated under reduced pressure to afford crude product, which was purified using a silica gel cartridge (80 g) eluted with a gradient of EtOAc (0-100%) in hexanes to afford the title compound as a white foam (320 mg, 62%). HPLC/MS: retention time=2.14 min, [M+H]+=420.1.

reactant | 8-bromo-7-chloro-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 1.2 mmol, 506 mg | BrC=1C=2N(C=CC1Cl)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C)=O | C14H9BrClF3N4O
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 4.8 mmol, 984 mg | CC1(OB(OC1(C)C)C1=CC=NC=C1)C | C11H16BNO2
reactant | sodium carbonate | 2.0 M, 2.6 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | (Ph3P)4Pd | 0.18 mmol, 208 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | (Ph3P)4Pd | 0.05 mmol, 60 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-chloro-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 320 mg, 62% | ClC1=C(C=2N(C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C)=O)C2=CC=NC=C2 | C19H13ClF3N5O
